US09302989B2
N-{4-[(4-phenylbutanoyl)amino]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide
A solution of N-(4-aminophenyl)isoindoline-2-carboxamide (100 mg, 0.395 mmol), 4-phenylbutanoic acid (78 mg, 0.474 mmol), 1-hydroxybenzotriazole hydrate (66.5 mg, 0.434 mmol) and N-methylmorpholine (0.109 ml, 0.987 mmol) in dimethylformamide (1.771 ml) at room temperature was treated with N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (136 mg, 0.711 mmol). The mixture was stirred overnight and diluted with water (10 ml); the resulting suspension was filtered with water washes to give product with an impurity. This solid was suspended in 2% methanol/methylene chloride and filtered to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.78-2.00 (m, 2H), 2.30 (t, J=7.3 Hz, 2H), 2.62 (t, J=7.5 Hz, 2H), 4.75 (s, 4H), 7.08-7.41 (m, 9H), 7.46 (s, 4H), 8.26 (s, 1H), 9.73 (s, 1H); (ESI(+)) m/e 400 (M+H)+.

reactant | N-(4-aminophenyl)isoindoline-2-carboxamide | 0.395 mmol, 100 mg | NC1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C15H15N3O
reactant | 4-phenylbutanoic acid | 0.474 mmol, 78 mg | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | 1-hydroxybenzotriazole hydrate | 0.434 mmol, 66.5 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 0.987 mmol, 0.109 ml | CN1CCOCC1 | C5H11NO
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.711 mmol, 136 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 1.771 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
solvent | methanol methylene chloride | CO.C(Cl)Cl
product | N-{4-[(4-phenylbutanoyl)amino]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide | C1(=CC=CC=C1)CCCC(=O)NC1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C25H25N3O2
